US07015218B1
N-[3-Cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide ½ hydrate
By the reaction and treatment in the same manner as in Example 64 using 1-(4-fluorophenyl)-5-methylpyrazole-4-carboxylic acid (0.8 g) and 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile (0.6 g), the title compound (0.3 g) was obtained, melting point: 226° C.(decomposition).

reactant | 1-(4-fluorophenyl)-5-methylpyrazole-4-carboxylic acid | 0.8 g | FC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9FN2O2
reactant | 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile | 0.6 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCOCC1 | C16H22N4O
product | N-[3-Cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide | 0.3 g | C(#N)C=1C=C(C=CC1N1CCC(CC1)N1CCOCC1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)F | C27H29FN6O2
